US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.5 g) and Mixtures A+B of 1-benzyl-4-dimethylamino-3,5-dimethylpiperidine (2.7 g, 10.1 mmol) in methanol (50 ml) was stirred in hydrogen atmosphere (1 atm.) at 60° C. for 48 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford Mixtures A+B of 4-dimethylamino-3,5-dimethylpiperidine. Yield 0.9 g (52.6%), C9H20N2, m/z 157 (M+1).

reactant | 1-benzyl-4-dimethylamino-3,5-dimethylpiperidine | 10.1 mmol, 2.7 g | C(C1=CC=CC=C1)N1CC(C(C(C1)C)N(C)C)C | C16H26N2
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.5 g | [OH-].[OH-].[Pd+2]
product | 4-dimethylamino-3,5-dimethylpiperidine | CN(C1C(CNCC1C)C)C | C9H20N2
